US06211242B1
A mixture of N-methyl-N-(4-nitrobenzoyl)aniline (1.18 g) and iron powder (2.57 g) in a mixture of ethanol (30 ml) and acetic acid (6 ml) was stirred at 80° C. for 3 hours and the mixture was cooled to ambient temperature. The mixture was filtered through Celite and the filtrate was evaporated in vacuo. The residue was dissolved in chloroform and neutralized with saturated aqueous sodium hydrogen carbonate. The solution was filtered through Celite again and the organic phase of the filtrate was washed with brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was solidified with diethyl ether to give N-methyl-N-(4-aminobenzoyl)aniline (754 mg) as a pale yellow solid.

reactant | N-methyl-N-(4-nitrobenzoyl)aniline | 1.18 g | CN(C1=CC=CC=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N2O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 2.57 g | [Fe] | Fe
product | N-methyl-N-(4-aminobenzoyl)aniline | 754 mg | CN(C1=CC=CC=C1)C(C1=CC=C(C=C1)N)=O | C14H14N2O
